US05753679
0.33 g (0.002 mol) of 2-dimethylaminobenzoic acid was dissolved in 10 ml of dimethylformamide, treated with 0.122 g (0.001 mol) of dimethylaminopyridine and 0.383 g (0.002 mol) of 1-benzyl-4-hydroxypiperidine and cooled to 0°. 0.422 g (0.0022 mol) of N-ethyl-N'-(3-dimethylaminopropyl)-carbodiimide hydrochloride was added and the mixture was stirred at 0° for a further 2 hrs. Subsequently, the mixture was stirred at room temperature for 3 days, the solvent was distilled off and the residue was chromatographed on silica gel with ethyl acetate/hexane (1:2). 0.31 g (46%) of 1-benzyl-piperidin-4-yl 2-dimethylamino-benzoate was obtained as a colorless oil.

reactant | 2-dimethylaminobenzoic acid | 0.002 mol, 0.33 g | CN(C1=C(C(=O)O)C=CC=C1)C | C9H11NO2
reactant | dimethylaminopyridine | 0.001 mol, 0.122 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 1-benzyl-4-hydroxypiperidine | 0.002 mol, 0.383 g | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
reactant | N-ethyl-N'-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 0.0022 mol, 0.422 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-benzyl-piperidin-4-yl 2-dimethylamino-benzoate | 0.31 g, 46% | CN(C1=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=CC=C1)C | C21H26N2O2
